2145-02-25 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2145-2-24**] 01:38 PM
 NASAL SWAB - At [**2145-2-24**] 04:31 PM
   - trazodone x 1
   - Fingersticks trended down to < 100. Given food with glucose,
   transitioned from insulin gtt to boluses
   - Nausea/vomiting o/n -> low fingersticks -> given [**1-9**] amp D50
   - insulin gtt turned down to 0.5 units/hr
   Allergies:
   Penicillins
   "throat swellin
   Watermelon
   Anaphylaxis;
   Almond Oil
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 0.5 units/hour
   Other ICU medications:
   Hydralazine - [**2145-2-24**] 02:17 PM
   Dextrose 50% - [**2145-2-25**] 02:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: Abdominal pain, Nausea, Emesis
   Flowsheet Data as of  [**2145-2-25**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**47**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 35.7
C (96.3
   HR: 94 (88 - 98) bpm
   BP: 198/108(128) {142/80(93) - 198/116(135)} mmHg
   RR: 13 (13 - 26) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  1,077 mL
                                                                    225 mL
   PO:
             TF:
   IVF:
                                                                  1,077 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    200 mL
   Urine:
   NG:
   200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,077 mL
                                                                     25 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   ABG: ///28/
   Physical Examination
   General Appearance: Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   224 K/uL
   7.8 g/dL
   87 mg/dL
   8.8 mg/dL
   28 mEq/L
   4.0 mEq/L
   38 mg/dL
   100 mEq/L
   139 mEq/L
   23.0 %
   7.6 K/uL
        [image002.jpg]
                             [**2145-2-20**]  06:10 AM
                             [**2145-2-20**]  07:15 PM
                             [**2145-2-21**]  04:09 AM
                             [**2145-2-21**]  12:01 PM
                             [**2145-2-21**]  06:33 PM
                             [**2145-2-22**]  03:32 AM
                             [**2145-2-24**]  03:11 PM
                             [**2145-2-24**]  07:45 PM
                             [**2145-2-24**]  11:50 PM
                             [**2145-2-25**]  04:21 AM
   WBC
   7.1
   5.4
   6.2
   5.3
   7.6
   Hct
   23.9
   23.0
   23.1
   22.5
   23.0
   Plt
   233
   190
   206
   180
   224
   Cr
   14.3
   14.5
   11.5
   11.8
   11.6
   11.5
   7.2
   8.5
   8.6
   8.8
   Glucose
   80
   134
   436
   169
   98
   44
   178
   92
   65
   87
   Other labs: PT / PTT / INR:11.0/24.0/0.9, ALT / AST:32/22, Alk Phos / T
   Bili:57/0.2, Amylase / Lipase:/58, Differential-Neuts:71.7 %,
   Lymph:18.3 %, Mono:8.3 %, Eos:1.4 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.7 g/dL, LDH:312 IU/L, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.6
   mg/dL
   Microbiology: [**2-24**] BCx: Pending
   [**2-21**] C. Diff: Negative
   Assessment and Plan
   Mr. [**Known lastname 1811**] is a 32 yo man with HTN, DM 1 c/b gastroparesis, and CKD
   now on HD who was admitted [**2-18**] for DKA and viral gastroenteritis,
   initially improved and now transferred back to the MICU for DKA in the
   setting of low grade fever, nausea, vomiting and recent decreases in
   his insulin due to morning  p/w abdominal pain and N/V/D x 2 days,
   found to have worsened renal failure and AG metabolic acidosis with
   concern for DKA.
   .
   # DM type 1/DKA: Likely [**2-9**] decreased insulin doses, but ruling out
   infection--low grade temp on arrival. BCx NGTD, no leukocytosis. Anion
   gap closed quickly after transfer and initiation of insulin gtt.
   Quickly tapered down from 3 -> 0.5 units/hr. Not tolerating PO intake,
   so continuing with dextrose infusion. Patient now written for
   subcutaneous insulin scale but fingersticks are consistently low enough
   that no doses have been given.
   - C/w Q1 hour fingersticks
   - PO intake as tolerated
   - Once tolerating PO intake and giving subcutaneous injections, can d/c
   insulin gtt; need 1-2 hr overlap to avoid rebound hyperglycemia
   - F/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 276**] recommendations
   - Replete lytes PRN
   - F/u cultures
   # ESRD: Planned for dialysis today
   - Cont calcitriol and calcium acetate
   - Renally dose all meds and avoid nephrotoxins
   - f/u renal recs
   - transplant surgery aware
   - Read PPD today, for outpatient dialysis eligibility
   #Hypertension: Patient's SBP has been 170-200 during admission with
   increasing doses of BB and multiple doses of IV hydralazine while on
   the floor.  Elevated further in setting of nausea and vomiting
   overnight. Patient's current regimen is Amlodipine 10mg po daily,
   hydralazine 50po TID, metoprolol 100 [**Hospital1 **].
   -consider ACE inhibitor
   -continue amlodipine, PO hydralazine
   -Consider changing beta blocker from metoprolol to labetalol, for more
   significant anti-hypertensive effect
   -HD today
   .
   # Nausea/Vomiting: Further emesis overnight. Etiologies include DKA,
   gastroparesis +/- viral gastroenteritis. Also noted to have elevated
   pancreatic enzymes and LFTs.
   - Zofran PRN
   - follow LFTs, pancreatic enzymes
   - IVF as long at pt does not become tachypnic
   - Diabetic diet as tolerated, with nutrition consult for diet education
   - will send c.diff and stool studies if patient has diarrhea
   .
   # Anemia: Hct stably low. Mild decrease 24-> 22 since yesterday
   morning, in setting of increased IV fluids. Thought to be combination
   of iron deficiency and CKD. Pt denies any blood in emesis or stools.
   - Guaiac all stools
   - Hold iron supplement while patient with nausea and vomiting
   - Trend Hct with PM hct
   - EPO with HD
   .
   #Ineffective Coping: Related to having to go on dialysis
   -SW consult
   #FEN: Diabetic diet, nutrition consult for diet education. Repleting
   lytes PRN. D10 @ 25 cc/hr
   #ACCESS: PICC line
   #PPX: Subcutaneous heparin
   #COMMUNICATION: patient
   #CODE: Full
   #DISPO: ICU pending insulin gtt requirement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2145-2-24**] 01:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-02-26 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2145-2-25**] 09:53 AM
   - Required Dextrose gtt in the morning for low BS
   - D/c'd Insulin gtt, started Glargine 15 and ISS [**First Name8 (NamePattern2) **] [**Last Name (un) 276**] Recs
   - Renal recs: Got 4th session today, d/c calcitriol, starting EPO
   - BPs responded well to HD and labetalol
   - Blood/urine/stool cx NGTD
   - Wanted to leave AMA this PM (loss of freedom, wants to get life
   together); convinced him to stay but does NOT want call out to floor
   Allergies:
   Penicillins
   "throat swellin
   Watermelon
   Anaphylaxis;
   Almond Oil
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2145-2-25**] 09:00 AM
   Hydralazine - [**2145-2-25**] 10:10 AM
   Morphine Sulfate - [**2145-2-25**] 10:40 AM
   Labetalol - [**2145-2-25**] 11:35 AM
   Hydromorphone (Dilaudid) - [**2145-2-25**] 12:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Psychiatric / Sleep: Minimally conversive
   Flowsheet Data as of  [**2145-2-26**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**47**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.3
   HR: 80 (80 - 105) bpm
   BP: 148/83(98) {141/67(91) - 211/127(139)} mmHg
   RR: 10 (10 - 22) insp/min
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
                  Total In:
                                                                    424 mL
                  PO:
                  TF:
   IVF:
                                                                    399 mL
   Blood products:
   Total out:
                                                                  3,780 mL
                                                                      0 mL
   Urine:
                                                                    480 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,356 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None
   ABG: ///34/
   Physical Examination
   General Appearance: No acute distress, Refusing to engage in
   conversation
   Head, Ears, Nose, Throat: Normocephalic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   187 K/uL
   7.1 g/dL
   79 mg/dL
   6.7 mg/dL
   34 mEq/L
   4.0 mEq/L
   25 mg/dL
   99 mEq/L
   138 mEq/L
   21.5 %
   6.2 K/uL
        [image002.jpg]
                             [**2145-2-21**]  12:01 PM
                             [**2145-2-21**]  06:33 PM
                             [**2145-2-22**]  03:32 AM
                             [**2145-2-24**]  03:11 PM
                             [**2145-2-24**]  07:45 PM
                             [**2145-2-24**]  11:50 PM
                             [**2145-2-25**]  04:21 AM
                             [**2145-2-25**]  06:04 AM
                             [**2145-2-25**]  05:17 PM
                             [**2145-2-26**]  05:59 AM
   WBC
   6.2
   5.3
   7.6
   7.9
   6.2
   Hct
   23.1
   22.5
   23.0
   22.7
   21.5
   Plt
   [**Telephone/Fax (3) 11672**]15
   187
   Cr
   11.8
   11.6
   11.5
   7.2
   8.5
   8.6
   8.8
   5.4
   6.7
   Glucose
   169
   98
   44
   178
   92
   65
   87
   204
   79
   Other labs: PT / PTT / INR:12.7/25.0/1.1, ALT / AST:34/30, Alk Phos / T
   Bili:66/0.3, Amylase / Lipase:98/49, Differential-Neuts:71.7 %,
   Lymph:18.3 %, Mono:8.3 %, Eos:1.4 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.7 g/dL, LDH:287 IU/L, Ca++:7.4 mg/dL, Mg++:1.7 mg/dL, PO4:4.4
   mg/dL
   Microbiology: [**2-24**] BCx: Pending
   Assessment and Plan
   32M with HTN, DM 1 c/b gastroparesis, and CKD now on HD admitted [**2-18**]
   for DKA and viral gastroenteritis, improved but now transferred back to
   the MICU for DKA in the setting of low grade fever, nausea, vomiting
   and recent decreases in his insulin.
   .
   # DM type 1/DKA: Likely [**2-9**] decreased insulin doses; infectious workup
   unrevealing thus far. Afebrile with no leukocytosis. Anion gap closed
   quickly after transfer and initiation of insulin gtt. On insulin
   injections only now, no insulin or dextrose gtt. Glargine given last
   night. Tolerating PO diet.
   - Patient wishes to leave, wanted to leave AMA overnight: [**Last Name (un) 276**] recs
   this morning is to discharge him on current insulin sliding scale and
   fixed dose. Will arrange for outpatient [**Last Name (un) 276**] follow-up
   - C/w analgesia/anxiolytics to control his pain and nausea PRN
   - C/w Q2 hour fingersticks if tolerated
   - C/w current insulin SS and fixed dose
   - Replete lytes PRN
   - F/u cultures
   # ESRD: HD yesterday. PPD read this morning
 was negative
 for
   hemodialysis center placement as outpatient
   - Renal aware that patient wishes to leave. Will set patient up for
   outpatient dialysis center
   - Cont calcitriol and calcium acetate
   - Renally dose meds and avoid nephrotoxins
   # Hypertension: Patient's SBP has been 170-200 during admission with
   increasing doses of BB and multiple doses of IV hydralazine.  Elevated
   further in setting of nausea and vomiting overnight. Patient's current
   regimen is Amlodipine 10mg po daily, hydralazine 50po TID, metoprolol
   100 [**Hospital1 **]. Renal recs: This is likely volume related, no role yet for
   starting ACE.
   - Will discharge patient current regimen
   - Continue hemodialysis as outpatient
   .
   # Nausea/Vomiting: Further emesis overnight. Etiologies include DKA,
   gastroparesis +/- viral gastroenteritis. Also noted to have elevated
   pancreatic enzymes and LFTs.
   - Much improved on Ativan, Dilaudid, tolerating PO diet
   .
   # Anemia: Hct stably low. Mild decrease 24-> 22 since yesterday
   morning, in setting of increased IV fluids. Thought to be combination
   of iron deficiency and CKD. Pt denies any blood in emesis or stools.
   - EPO with HD
   .
   #Ineffective Coping: Related to having to go on dialysis. Seen by
   social work, open to outside support exploring options for ongoing
   outpatient therapy/counseling
   -SW consulted
 appreciate their following patient
   #FEN: Diabetic diet, nutrition consult for diet education appreciated
   #ACCESS:Left PICC line
 will need to be discontinued prior to
   discharge
   #PPX: Subcutaneous heparin
   #COMMUNICATION: patient
   #CODE: Full
   #DISPO: ICU; stable for transfer to floor but reportedly refusing to
   transfer; plan on discharge today from MICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2145-2-24**] 01:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: